*
V1 N002 0 48 Rser=1m
Lp N006 N008 100µ
Ls N003 N007 900µ
Lk N005 N006 5µ
M1 N002 N004 N004 N004 NMOS ron = 1m Coss = {Coss}
M2 N004 0 0 0 NMOS ron = 1m Coss = {Coss}
M3 N002 N008 N008 N008 NMOS ron = 1m Coss = {Coss}
M4 N008 0 0 0 NMOS ron = 1m Coss = {Coss}
M5 N001 N003 N003 N003 NMOS ron = 1m Coss = {Coss}
M6 N003 0 0 0 NMOS ron = 1m Coss = {Coss}
M7 N001 N007 N007 N007 NMOS ron = 1m Coss = {Coss}
M8 N007 0 0 0 NMOS ron = 1m Coss = {Coss}
Co N001 0 50µ
Ro N001 0 10
Vout N001 0 16 Rser=1m
RLl N005 N004 1m
K1 Lp Ls 1
.param Coss = .1n
.param ts = [100 1 10 2 100 1 10 2]/234*1e-6
.param swvec = [1 0 0 1 1 0 0 1; 0 0 0 0 1 0 0 1; 0 1 1 0 1 0 0 1; 0 1 1 0 0 0 0 0; 0 1 1 0 0 1 1 0; 0 0 0 0 0 1 1 0; 1 0 0 1 0 1 1 0; 1 0 0 1 0 0 0 0]
*.param swvec = [[1 0 0 1 1 0 0 1; 0 0 0 0 1 0 0 1; 0 1 1 0 1 0 0 1; 0 1 1 0 0 0 0 0; 0 1 1 0 0 1 1 0; 0 0 0 0 0 1 1 0; 1 0 0 1 0 1 1 0; 1 0 0 1 0 0 0 0], zeros(8,8)]
.end

